US07718652B2
In an analogous manner to Example 1 step 7, 3-(3-chloropropyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (400 mg) was coupled to m-fluorophenylboronic acid to provide 3-(3-chloropropyl)-1-(3-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (78 mg):

reactant | 3-(3-chloropropyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 400 mg | ClCCCN1S(NC2=C(C1)C=CC=C2)(=O)=O | C10H13ClN2O2S
reactant | m-fluorophenylboronic acid | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
product | 3-(3-chloropropyl)-1-(3-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 78 mg | ClCCCN1S(N(C2=C(C1)C=CC=C2)C2=CC(=CC=C2)F)(=O)=O | C16H16ClFN2O2S
